US04206152
With efficient stirring, a suspension consisting of 10 g (23.7 mmols) of α,α,α',α'-tetrabromo-o-xylene, 9.7 g (118 mmols) of sodium acetate. 1.74 g (5.4 mmols) of tetrabutylammonium bromide, 4.75 g of calcium carbonate and 10 ml of distilled water is heated to reflux in a nitrogen atmosphere, whereupon the temperature rises to 118° C. After a reaction time of 6 hours, the reaction mixture is cooled and, after the addition of 50 ml of ethyl acetate, filtered. The organic phase is separated in a separating funnel and the aqueous phase is washed once more with ethyl acetate. The combined organic extracts (ethyl acetate extracts) are washed with a solution of sodium chloride, dried over magnesium sulfate and then concentrated in vacuo. The residue is taken up in 40 ml of toluene and the solution is purified by chromatography through a column packed with 100 g of silica gel. After elution with toluene, concentration of the eluate yields 2.10 g (66.2% of theory) of o-phthalaldehyde with a melting point of 53°-55° C.

reactant | α,α,α',α'-tetrabromo-o-xylene | 23.7 mmols, 10 g | BrC(C=1C(=CC=CC1)C(Br)Br)Br | C8H6Br4
reactant | sodium acetate | 118 mmols, 9.7 g | C(C)(=O)[O-].[Na+]
reactant | calcium carbonate | 4.75 g | C([O-])([O-])=O.[Ca+2]
reactant | water | 10 ml | O | H2O
catalyst | tetrabutylammonium bromide | 5.4 mmols, 1.74 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | o-phthalaldehyde | 2.10 g, 66.2% | C1=CC=C(C(=C1)C=O)C=O | C8H6O2
